US07745641B2
Iodine (6.29 g, 24.8 mmol) was dissolved in ethanol (225 mL), and the solution was added with silver sulfate (3.87 g, 12.4 mmol) and 3-amino-6-bromophthalimide (3.00 g, 12.4 mmol), followed by stirring at room temperature for 23 hours. The reaction mixture was added with 10% aqueous sodium thiosulfate solution and extracted with ethyl acetate. The organic layer was washed with 0.5 mol/L hydrochloric acid and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, the residue was purified by slurry using hexane and methanol to obtain 3-amino-4-iodo-6-bromophthalimide (4.3 g. yield 96%).

reactant | Iodine | 24.8 mmol, 6.29 g | II | I2
reactant | 3-amino-6-bromophthalimide | 12.4 mmol, 3.00 g | NC1=C2C(C(=O)NC2=O)=C(C=C1)Br | C8H5BrN2O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 225 mL | C(C)O | C2H6O
catalyst | silver sulfate | 12.4 mmol, 3.87 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 3-amino-4-iodo-6-bromophthalimide | 4.3 g, yield 96% | NC1=C2C(C(=O)NC2=O)=C(C=C1I)Br | C8H4BrIN2O2
